US06239147B1
(v) 6-Methoxy-1-methyl-1-trifluoromethylisochroman-7-carbaldehyde
To a stirred solution of 6-methoxy-1-methyl-1trifluoromethylisochroman (460 mg) in dry dichloromethane (5 ml) was added titanium(IV) chloride under nitrogen at −78° C. After 15 minutes, to the yellow solution was added a solution of dichloromethyl methyl ether in dry dichloromethane at the same temperature. The reaction mixture was stirred at −78° C. for one hour, poured onto ice water, and stirred at room temperature for 30 minutes. The aqueous layer was extracted with methylene chloride. The extracts were washed with brine, dried over magnesium sulfate, and concentrated to give a crude product. This was purified by silica-gel column chromatography eluted with a gradient of hexane and ethyl acetate (10:1, 8:1, 6:1) to give the title compound (179 mg, 48.3% from 1,1,1-Trifluoro-2-(4-methoxy-2-(2-(tetrahydropyran-2-yloxy)ethyl)phenyl)-propan-2-ol). 1H-NMR(CDCl3): 10.41 (s, 1H), 7.82 (s, 1H), 6.78 (s, 1H), 4.19-4.11 (m, 1H), 3.94 (s, 3H), 3.94-3.87 (m, 1H), 2.91 (t, J=4.4 Hz, 2H), 1.67 (s, 3H).

reactant | 6-methoxy-1-methyl-1trifluoromethylisochroman | 460 mg | COC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C12H13F3O2
reactant | dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
product | 6-Methoxy-1-methyl-1-trifluoromethylisochroman-7-carbaldehyde | 179 mg, 48.3% | COC=1C=C2CCOC(C2=CC1C=O)(C(F)(F)F)C | C13H13F3O3
